US08012982B2
A stock solution of SOCl2-benzotriazole in dry DCM (1.5 M) was prepared by making up volume of a viscous clear solution of thionyl chloride (1 eq) and benzotriazole (1 eq) with dry DCM (1.5 M)—cf, Synlett 1999, 1763. 1.25 eq of this stock solution was added to a solution of 4-(4-tert-butoxycarbonyl)piperazin-1-yl)benzoic acid (1 eq) (prepared as described in published International patent application WO98/00134) in dry DCM (0.05 M). With the addition, a precipitate formed that was indicative of acyl chloride formation. The reaction was left at RT for 10 min before being filtered through a pad of anhydrous sodium sulfate.

reactant | thionyl chloride | 1 eq | S(=O)(Cl)Cl | Cl2OS
reactant | benzotriazole | 1 eq | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | benzoic acid | 1 eq | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | DCM | 1.5 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 M | C(Cl)Cl | CH2Cl2
product | SOCl2 benzotriazole | O=S(Cl)Cl.N1N=NC2=C1C=CC=C2 | InChI=1S/C6H5N3.Cl2OS/c1-2-4-6-5(3-1)7-9-8-6;1-4(2)3/h1-4H,(H,7,8,9);
